US08530504B2
6-Ethoxypyrazolo[5,1-b][1,3]thiazole-7-carboxylic acid ethyl ester
To a DMF (119 mL) solution of 6-oxo-5,6-dihydro-pyrazolo[5,1-b][1,3]thiazole-7-carboxylic acid ethyl ester (8.5 g, 40.2 mmol), cesium carbonate (26.1 g, 80.2 mmol) and iodoethane (8.3 mL, 80.2 mmol) were added while stirring at room temperature. The mixture was stirred at room temperature for one hour, was extracted with diethyl ether, washed with brine, and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by medium pressure amino silica gel column chromatography (n-heptane/ethyl acetate: 10% then 40%) to obtain the title compound (7.01 g, 29.2 mmol).

reactant | 6-oxo-5,6-dihydro-pyrazolo[5,1-b][1,3]thiazole-7-carboxylic acid ethyl ester | 40.2 mmol, 8.5 g | C(C)OC(=O)C=1C(NN2C1SC=C2)=O | C8H8N2O3S
reactant | cesium carbonate | 80.2 mmol, 26.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 80.2 mmol, 8.3 mL | ICC | C2H5I
solvent | DMF | 119 mL | CN(C)C=O | C3H7NO
product | 6-Ethoxypyrazolo[5,1-b][1,3]thiazole-7-carboxylic acid ethyl ester | 29.2 mmol, 7.01 g | C(C)OC(=O)C=1C(=NN2C1SC=C2)OCC | C10H12N2O3S
